US08445509B2
N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
To a solution of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (150 mg, 0.460 mmol) in N,N-dimethylacetamide (3.0 mL) were added 1-[(4-fluorophenyl)carbamoyl]cyclopropanecarboxylic acid (154 mg, 0.689 mmol), HATU (262 mg, 0.689 mmol) and N,N-diisopropylethylamine (120 μL, 0.689 mmol), and the mixture was stirred at room temperature for 4 hr. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=40/60→0/100), washed with hexane/ethyl acetate and collected by filtration to give the title compound (99 mg, 41%) as a white solid.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.460 mmol, 150 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 1-[(4-fluorophenyl)carbamoyl]cyclopropanecarboxylic acid | 0.689 mmol, 154 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | HATU | 0.689 mmol, 262 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.689 mmol, 120 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 3.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 99 mg, 41% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C2(CC2)C(=O)NC2=CC=C(C=C2)F)F)C1 | C28H23F2N5O4
